US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), thiomorpholine-1,1-dioxide (44.8 mg, 331 μmol), diisopropylethylamine (145 μl, 828 μmol) and propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) in tetrahydrofurane (7.00 ml) is stirred for 4 hours at 70° C. and then for 60 hours at 25° C. under nitrogen atmosphere. The solvent is evaporated and to the residue is added sat. aqueous sodium hydrogencarbonate solution. The mixture is stirred for 20 minutes while a white solid precipitates. The solid is collected by filtration, washed with diethylether and dried affording 4-(1,1-dioxo-thiomorpholine-4-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (112 mg, 84.7%) as a white solid. mp.: >250° C. MS: m/z=480.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | thiomorpholine-1,1-dioxide | 331 μmol, 44.8 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | diisopropylethylamine | 828 μmol, 145 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
solvent | tetrahydrofurane | 7.00 ml | O1CCCC1 | C4H8O
product | 4-(1,1-dioxo-thiomorpholine-4-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 112 mg, 84.7% | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCS(CC2)(=O)=O)C)=N1 | C22H21N7O4S
